US05500453
A solution of 5.03 g of lithium n-butyltriphenylborate in 50 ml of acetonitrile was added to a solution of 6.65 g of diphenylphenacylsulfonium perchlorate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 3.67 of diphenylphenacylsulfonium-n-butyltriphenylborate. Melting point: 121-124 (gradually melted around 110° C.).

reactant | lithium n-butyltriphenylborate | 5.03 g | C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.[Li+]
reactant | diphenylphenacylsulfonium perchlorate | 6.65 g | Cl(=O)(=O)(=O)[O-].C1(=CC=CC=C1)[S+](CC(=O)C1=CC=CC=C1)C1=CC=CC=C1
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | diphenylphenacylsulfonium n-butyltriphenylborate | C1(=CC=CC=C1)[S+](CC(=O)C1=CC=CC=C1)C1=CC=CC=C1.C(CCC)[B-](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C22H24B.C20H17OS/c1-2-3-19-23(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;21-20(17-10-4-1-5-11-17)16-22(18-12-6-2-7-13-18)19-14-8-3-9-15-19/h4-18H,2-3,19H2,1H3;1-15H,16H2/q-1;+1
